US07951815B2
Triethylamine (5.8 g, 57.3 mmol) and a catalytic amount of DMAP were added to a solution of piperidone hydrochloride (4.0 g, 26 mmol) in CH2Cl2 (20 ml). After cooling to −10° C., 2-ethylbutyryl chloride (3.9 g, 28.6 mmol) dissolved in CH2Cl2 (10 ml) was slowly added and the mixture was stirred at RT for 16 h. 5M potassium hydroxide solution (25 ml) was added to the suspension, the organic phase was separated off and the aqueous phase was extracted with CH2Cl2 (3×10 ml). After drying of the combined organic phases over Na2SO4, filtration and removal of the solvent, the product 1-(2-ethylbutyryl)piperidin-4-one was obtained in a yield of 4.3 g (84% of theory).

reactant | Triethylamine | 57.3 mmol, 5.8 g | C(C)N(CC)CC | C6H15N
reactant | piperidone hydrochloride | 26 mmol, 4.0 g | Cl.N1C(CCCC1)=O
reactant | 2-ethylbutyryl chloride | 28.6 mmol, 3.9 g | C(C)C(C(=O)Cl)CC | C6H11ClO
reactant | potassium hydroxide | 5M, 25 ml | [OH-].[K+]
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-ethylbutyryl)piperidin-4-one | C(C)C(C(=O)N1CCC(CC1)=O)CC | C11H19NO2
